US08193121B2
Step 5: Synthesis of 2-methoxy-3-methylthio-4-(trifluoromethyl)benzoic acid (Table Example No. 12-13)
16 ml of 20 percent strength aqueous sodium hydroxide solution were added to 16.0 g (57.1 mmol) of methyl 2-methoxy-3-methylthio-4-(trifluoromethyl)benzoate in 160 ml of methanol, and the mixture was stirred at RT for 4 h. For work-up, the mixture was freed from the solvent and the residue was taken up in a little water. The mixture was cooled in an ice bath and then acidified with dilute hydrochloric acid. The mixture was stirred at RT for 5 min, and the contents was then filtered. This gave 15.3 g of 2-methoxy-3-methylthio-4-(trifluoromethyl)benzoic acid.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | methyl 2-methoxy-3-methylthio-4-(trifluoromethyl)benzoate | 57.1 mmol, 16.0 g | COC1=C(C(=O)OC)C=CC(=C1SC)C(F)(F)F | C11H11F3O3S
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 160 ml | CO | CH4O
product | 2-methoxy-3-methylthio-4-(trifluoromethyl)benzoic acid | COC1=C(C(=O)O)C=CC(=C1SC)C(F)(F)F | C10H9F3O3S
